US04602029
Preparation of 1-Ethyl-3-trichloromethylthio-5,5-dimethylhydantoin
A mixture of 15.6 g (0.1 mole) 1-ethyl-5,5-dimethylhydantoin (the product of Example 3), 19.5 g (0.1 moles) trichloromethylsulfenyl chloride and 1.2 g Aliquat® 336 in 100 ml methylene chloride was stirred vigorously for about 10 minutes. The reaction mixture was cooled to about 7° C. in an ice bath; 25 g (0.125 moles) of pre-cooled 20% aqueous sodium hydroxide were added at once. After the addition, the temperature of the reaction mixture rose to 27° C.; when the temperature returned to about 7° C., the ice bath was removed. The reaction mixture was washed three times with 50 ml ice water, dried over magnesium sulfate and stripped to give a solid. The solid was crystallized twice from toluene with charcoal treatment to give 16.0 g of the above-identified product as a white solid, melting point 141°-142° C.

reactant | 1-ethyl-5,5-dimethylhydantoin | 0.1 mole, 15.6 g | C(C)N1C(=O)NC(=O)C1(C)C | C7H12N2O2
reactant | trichloromethylsulfenyl chloride | 0.1 moles, 19.5 g | ClC(SCl)(Cl)Cl | CCl4S
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | Aliquat® 336 | 1.2 g | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 1-Ethyl-3-trichloromethylthio-5,5-dimethylhydantoin | 16.0 g | C(C)N1C(=O)N(C(=O)C1(C)C)SC(Cl)(Cl)Cl | C8H11Cl3N2O2S
